US06492372B1
Step A: Preparation of N—(4-Ethoxy—1,1-dioxo—1,2,5-thiadiazol—3-yl)-L-tyrosine tert-Butyl Ester
A solution of 3,4-diethyloxy—1,1-dioxo—1,2,5-thiadiazole (400 mg, 1.94 mmol) and L-tyrosine t-butyl ester (1.25 g, 5.2 mmol) in ethanol (25 mL) was stirred at room temperature overnight. Solvent was removed under reduced pressure and the product used in further transformations without further purification (Yield 790 mg).

reactant | 3,4-diethyloxy—1,1-dioxo—1,2,5-thiadiazole | 1.94 mmol, 400 mg | C(C)OC1=NS(N=C1OCC)(=O)=O | C6H10N2O4S
reactant | L-tyrosine t-butyl ester | 5.2 mmol, 1.25 g | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C13H19NO3
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N—(4-Ethoxy—1,1-dioxo—1,2,5-thiadiazol—3-yl)-L-tyrosine tert-Butyl Ester | C(C)(C)(C)OC([C@@H](NC1=NS(N=C1OCC)(=O)=O)CC1=CC=C(C=C1)O)=O | C17H23N3O6S
